US04287337
0.1 mol of methyl lithium dissolved in 200 ml of ether anhydride is added drop by drop in an inert atmosphere (argon or nitrogen) to 15 g of 5-chloro-2,2-dimethyl pentane nitrile diluted in 60 ml of anhydrous ether. The reaction mixture is maintained between 0° and 5° C. during the addition and then for a further 30 minutes and then kept at room temperature for 4 hours. After hydrolysis it is extracted with ether. The 2,3,3-trimethyl-3,4,5,6-tetrahydropyridine is then isolated by distillation. A colorless liquid of B.P.14 =60° C. is obtained in a yield of 76% of 1-piperideine.

reactant | methyl lithium | 0.1 mol | C[Li]
reactant | 5-chloro-2,2-dimethyl pentane nitrile | 15 g | ClCCCC(C#N)(C)C | C7H12ClN
solvent | ether | 60 ml | CCOCC | C4H10O
product | 2,3,3-trimethyl-3,4,5,6-tetrahydropyridine | CC1=NCCCC1(C)C | C8H15N
